US07868014B2
Add trifluoroacetic acid (5 mL) to a solution of [1-(6-fluoropyridin-3-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (840 mg, 3.0 mmol) in dichloromethane (5 mL). Stir for 1 h then concentrate to dryness. Dissolve the residue in methanol and pass through a column of Dowex® 1x2-200 (Cl− form). Concentrate the residue and crystallize from methanol and acetone to give (S)-1-(6-fluoropyridin-3-yl)-pyrrolidin-3-ylamine hydrochloride as a tan solid (453 mg, 70%).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [1-(6-fluoropyridin-3-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 3.0 mmol, 840 mg | C(C)(C)(C)OC(NC1CN(CC1)C=1C=NC(=CC1)F)=O | C14H20FN3O2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-1-(6-fluoropyridin-3-yl)-pyrrolidin-3-ylamine hydrochloride | 453 mg, 70% | Cl.FC1=CC=C(C=N1)N1C[C@H](CC1)N | InChI=1S/C9H12FN3.ClH/c10-9-2-1-8(5-12-9)13-4-3-7(11)6-13;/h1-2,5,7H,3-4,6,11H2;1H/t7-;/m0./s1
